US08629134B2
Using the methods reported in U.S. Pat. No. 4,585,770, 5,6-dihydro-imidazo[4,5,1-jk][1]benzazepin-2,7-[1H,4H]-dione may be reacted with an alkyl nitrite (e.g., tert-butyl nitrite or isoamyl nitrite), in the presence of a base or acid (e.g., HCl), to form 4,5-dihydro-imidazo[4,5,1-jk][1]benzazepin-2,6,7[1H]-trione-6-oxime. The 4,5-dihydro-imidazo[4,5,1-jk][1]benzazepin-2,6,7[1H]-trione-6-oxime, in turn, is reduced via catalytic hydrogenation (with, for example, hydrogen in the presence of palladium on carbon) and/or sodium borohydride to form racemic trans 6-amino-7-hydroxy-4,5,6,7-tetrahydro-imidazo[4,5,1-jk][1]-benzazepin-2[1H]-one:

reactant | 4,5-dihydro-imidazo[4,5,1-jk][1]benzazepin-2,6,7[1H]-trione-6-oxime | N1C(N2CCC(C(C3=C2C1=CC=C3)=O)=NO)=O | C11H9N3O3
reactant | hydrogen | [H][H] | H2
reactant | sodium borohydride | [BH4-].[Na+]
catalyst | palladium on carbon | [Pd] | Pd
product | racemic trans 6-amino-7-hydroxy-4,5,6,7-tetrahydro-imidazo[4,5,1-jk][1]-benzazepin-2[1H]-one | N[C@@H]1CCN2C3=C([C@H]1O)C=CC=C3NC2=O | C11H13N3O2
